* Envelope Filter con OpAmp TL072

* Alimentazione
V1 10 0 DC 15    * +15V rail
V2 11 0 DC -15   * -15V rail

* Input stage - Non-inverting buffer
O1 2 1 0 10 11 TL072

* State Variable Filter (SVF)
O2 3 0 4 10 11 TL072     * Integrator 1
O3 5 0 6 10 11 TL072     * Integrator 2
O4 7 0 8 10 11 TL072     * Summer/Mixer

* Resistori e condensatori
R1 1 4 10k
R2 4 3 10k
C1 4 3 47n

R3 3 6 10k
R4 6 5 10k
C2 6 5 47n

* Feedback network
R5 5 8 10k
R6 3 8 10k

* Output
.output 7
.input 1