.title RLC Low-Pass Filter 100Hz

L1 1 2 1.59
C1 2 0 1.59e-6
R1 2 3 10      

* Carico
Rload 3 0 1k

.input 1
.output 3
.probe probe-rlc.csv V(1) V(3)
* I(L1) I(C1)
