.title Inverting Amplifier (Gain = -10)

VCC 10 0 DC 15
VEE 11 0 DC -15

R1 1 2 10k
R2 2 3 100k

OP 3 0 2 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

* SIN(0 0.5 440)
.input 1
.output 3
.probe opamp-02.csv V(1) V(3)

* V(3) = - V(1) * ( R2 / R1 )