* Test OpAmp - Open Loop (senza feedback)

V1 4 0 DC 15
V2 5 0 DC -15

* Input differenziale piccolo
V3 1 0 DC 0.001    * +1mV su in+
V4 2 0 DC 0.0      * 0V su in-

* OpAmp in open loop
O1 3 1 2 4 5 TL072 Rout=75 Imax=0.020 Gain=1000 Sr=13

* Solo carico
R1 3 0 10k

.input 1
.output 3

.probe test_openloop.csv V(1) V(2) V(3)

*V(3) ≈ +10V (o saturato a ~13.5V).