.title Filtro Attivo (Sallen-Key 2nd order LP)

V1 10 0 DC 15
V2 11 0 DC -15

O1 4 3 2 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

* Sallen-Key topology (fc ≈ 1kHz, Q ≈ 0.707 Butterworth)
R1 1 2 10k
R2 2 3 10k
C1 2 0 15.9e-9
C2 3 4 15.9e-9

* Unity gain feedback
W1 4 3

.input 1
.output 4

.probe opamp-99-lowpass.csv V(1) V(4)
