.title Circuito Wah RC Attivo con Potenziometro P

R1 1 2 2.2k
C2 3 0 1.2e-9
C1 2 4 100e-9
P1 2 3 4 1k Pos=0.1 Taper=LIN
W 3 4
E_op 5 0 3 0 Gain=2 Vmax=15 Vmin=-15 Rout=100

.input 1
.output 5

.probe wah.csv V(1) V(5)
