.title Sallen-Key Resontant Filter

R1 1 2 2.2k
R2 2 3 2.2k
C1 2 4 100e-9  
C2 3 0 1.2e-9
   
E_op 4 0 3 0 Gain=1.415 Vmax=15 Vmin=-15 Rout=11000

* Comandi del simulatore
.input 1
.output 4
.probe resonant.csv V(input) V(4)
