.title Three Wien Bridge Oscillators - C Major Chord

VCC 10 0 DC 9
VEE 11 0 DC -9

R1a 3 1 10k
R2a 1 2 10k
C1a 3 2 0.061u
C2a 2 0 0.061u
R3a 0 14 10k
R4a 14 3 10k
O1a 14 2 3 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

R1b 6 4 10k
R2b 4 5 10k
C1b 6 5 0.048u
C2b 5 0 0.048u
R3b 0 15 10k
R4b 15 6 10k
O1b 15 5 6 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

R1c 9 7 10k
R2c 7 8 10k
C1c 9 8 0.041u
C2c 8 0 0.041u
R3c 0 16 10k
R4c 16 9 10k
O1c 16 8 9 10 11 TL072 Rout=75 Imax=0.020 Gain=10000 Sr=13

R_mix1 3 12 33k
R_mix2 6 12 33k
R_mix3 9 12 33k

R_out 12 13 1k

.ic C1a 0.1
.ic C1b 0.1
.ic C1c 0.1

.output 13
.probe oscillator-wien.csv V(3) V(6) V(9)

