* Feedback Positivo (Soglie a +/- 4.25V se Vmax=8.5)
R1 2 3 10k
R2 3 0 10k

* Feedback Negativo (Target 440 Hz)
R3 2 1 10.3k
C1 1 0 100e-9

* COMPONENTE E (VCVS)
* Sintassi: E1 Out+ Out- In+ In- Guadagno Vmin Vmax
E1 2 0 3 1 Gain=1000 Vmax=8.5 Vmin=-8.5 Rout=1


.output 2
.ic C1 0.1
.warmup 0.5
.probe oscillator.csv V(2)
